US09315521B2
6-methyl-2-[(1,3-thiazol-4-ylmethyl)sulfanyl]pyrimidin-4-ol, (247 mg, 1.0 mmol) was stirred in methanol (30 mL), and a solution of 4 N HCl in dioxane (390 μL, 1.5 mmol) was added dropwise at 0° C. The mixture was stirred for 1 hour at room temperature. The solvent was removed by evaporation, and the residue was triturated with diethyl ether and dried in vacuo to afford to 6-methyl-2-[(1,3-thiazol-4-ylmethyl)sulfanyl]pyrimidin-4-ol hydrochloride (260 mg, 92% yield); 1H NMR (400 MHz, DMSO-d6): δ 2.27 (s, 3H), 4.58 (s, 2H), 6.19 (s, 1H), 7.73 (d, J=2.0 Hz, 1H), 9.14 (d, J=2.0 Hz, 1H); LRMS (ES+) m/z 240 (100%, M+1).

reactant | 6-methyl-2-[(1,3-thiazol-4-ylmethyl)sulfanyl]pyrimidin-4-ol | 1.0 mmol, 247 mg | CC1=CC(=NC(=N1)SCC=1N=CSC1)O | C9H9N3OS2
reactant | HCl | 4 N | Cl | ClH
reactant | dioxane | 1.5 mmol, 390 μL | O1CCOCC1 | C4H8O2
solvent | methanol | 30 mL | CO | CH4O
product | 6-methyl-2-[(1,3-thiazol-4-ylmethyl)sulfanyl]pyrimidin-4-ol hydrochloride | 260 mg, 92% yield | Cl.CC1=CC(=NC(=N1)SCC=1N=CSC1)O | InChI=1S/C9H9N3OS2.ClH/c1-6-2-8(13)12-9(11-6)15-4-7-3-14-5-10-7;/h2-3,5H,4H2,1H3,(H,11,12,13);1H
